US06211199B1
14.3 Synthesis of 1-(2,3,4-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 4.1 using 1-(2,3,4-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (1.1 g, 2.3 mmol) and (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt (1.21 g, 2.6 mmol). Purify by chromatography on silica gel eluting 28% methanol/ethyl acetate containing 20 mL concentrated aqueous ammonia solution/3L to give the title compound: mp; 112-119° C.

reactant | 1-(2,3,4-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 2.3 mmol, 1.1 g | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=CC(=C1OC)OC | C23H29NO7S
reactant | (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | 2.6 mmol, 1.21 g | I.N1C(=NC2=C1C=CC=C2)NC2CCNCC2
product | 1-(2,3,4-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=CC(=C1OC)OC | C34H41N5O4
